US08580323B2
We dissolve the 10 kg food-grade skim milk powder (fat content ≦2.0%) with 90 kg water, and then add 3000 ml 10% calcium lactate and 1000 ml chymopapain solution while stirring, when the solution's temperature is increased to 39 Celsius, keep the status for 20 min. After the above-mentioned steps, the solution's temperature soon increases to 55 Celsius. We stir to crush the curd to produce curd particles and whey and then add 100 kg 45 Celsius purified water into the container with the curd particles while stirring and repeat the filtering once. Next step we collect the washed curd particles and dissolve it by using 0.01 mol potassium carbonate-citric acid buffer and 0.2% sucrose ester to produce the re-dissolved milk which pH value is 7.0. After removing lactose from the whey by ultrafiltration and nanofiltration, we get de-lactose whey which contains minerals. The final step we mix the re-dissolved milk with de-lactose whey, then heating, homogenizing and disinfecting the solution to produce lactose-free milk. We prove the no-lactose milk contains lactose ≦0.5%, total sugar ≦0.5%, fat ≧1.5%, and protein ≧2.9%.

reactant | calcium lactate | 3000 ml | C(C(O)C)(=O)[O-].[Ca+2].C(C(O)C)(=O)[O-]
reactant | chymopapain | 1000 ml | C1=C(C=C(C(=C1S(=O)(=O)[O-])O)O)S(=O)(=O)[O-].[Na+].[Na+]
reactant | potassium carbonate citric acid | 0.01 mol | C([O-])([O-])=O.[K+].[K+].C(CC(O)(C(=O)O)CC(=O)O)(=O)O
reactant | water | 90 kg | O | H2O
product | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
